US09238647B2
Step C: tert-butyl 6-(2-benzoylhydrazino)-5-chloronicotinate
To a solution of tert-butyl 5-chloro-6-hydrazinonicotinate hydrochloride salt (3.0 g, 9.5 mmol) in N,N-dimethylformamide (20 mL) were added benzoic acid (1.62 g, 13.3 mmol), EDC (3.63 g, 19.0 mmol), HOAT (1.29 g, 9.48 mmol) and triethylamine (6.6 mL, 48.4 mmol). The reaction mixture was stirred at 60° C. After 1 h, saturated aqueous sodium bicarbonate was added and the mixture was extracted with ethyl acetate (3×). The combined organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated: LC-MS [M+1]=348.1.

reactant | tert-butyl 5-chloro-6-hydrazinonicotinate hydrochloride salt | 9.5 mmol, 3.0 g | Cl.ClC=1C(=NC=C(C(=O)OC(C)(C)C)C1)NN
reactant | benzoic acid | 13.3 mmol, 1.62 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | EDC | 19.0 mmol, 3.63 g
reactant | HOAT | 9.48 mmol, 1.29 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | triethylamine | 48.4 mmol, 6.6 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | tert-butyl 6-(2-benzoylhydrazino)-5-chloronicotinate | C(C1=CC=CC=C1)(=O)NNC1=NC=C(C(=O)OC(C)(C)C)C=C1Cl | C17H18ClN3O3
